US04386081
(f) Dimethyl 4-(ethoxycarbonyl)phenoxycarbonylphosphonate
From 16.1 g (0.13 mole) of trimethylphosphite and 22.8 g (0.10 mole) of 4-ethoxycarbonylphenyl chloroformate. (100° C., 3 hours). Yield 26.7 g (88%). Bp0.05 205°-7° C.

reactant | trimethylphosphite | 0.13 mole, 16.1 g | COP(OC)OC | C3H9O3P
reactant | 4-ethoxycarbonylphenyl chloroformate | 0.10 mole, 22.8 g | ClC(=O)OC1=CC=C(C=C1)C(=O)OCC | C10H9ClO4
product | Dimethyl 4-(ethoxycarbonyl)phenoxycarbonylphosphonate | C(C)OC(=O)C1=CC=C(OC(=O)P(OC)(OC)=O)C=C1 | C12H15O7P
